US07371769B2
d) Preparation of 2-methylthio-5-(2-chloroethyl)-3,6-dimethyl-3H-pyrimidin-4-one.
To a solution of 2-methylthio-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one (20.3 g, 0.095 mol) in chloroform (200 ml) was added one equivalent of pyridine (7.6 ml), followed by slow addition of three equivalents of thionyl chloride (21 ml). After stirring for 15 minutes, the mixture was concentrated and water (300 ml) was added. The precipitate was collected and washed with water, isopropyl alcohol and petroleum ether. Yield 34.4 g (64%). Yield 20.3 g (92%). Mp. 135-137° C.

reactant | 2-methylthio-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one | 0.095 mol, 20.3 g | CSC1=NC(=C(C(N1C)=O)CCO)C | C9H14N2O2S
reactant | pyridine | 7.6 ml, one equivalent | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 21 ml, three equivalents | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methylthio-5-(2-chloroethyl)-3,6-dimethyl-3H-pyrimidin-4-one | CSC1=NC(=C(C(N1C)=O)CCCl)C | C9H13ClN2OS
